US08138175B2
E) 3-Methyl-1-(3-piperidin-1-yl-propyl)-4-(3-trifluoromethoxy-phenyl)-piperazin-2-one
NaH (55% dispersion in mineral oil, 36 mg, 0.82 mmol) was added portionwise at RT to a solution of 3-methyl-4-(3-trifluoromethoxy-phenyl)-piperazin-2-one (150 mg, 0.55 mmol) in DMA (3 mL), then after 1 h a solution of 1-(3-chloropropyl)-piperidine in toluene [prepared from commercially available 1-(3-chloropropyl)-piperidine hydrochloride (542 mg, 2.74 mmol) by partitioning between toluene (4 ml) and 1 M aq. sodium hydroxide solution (4 ml) and drying of the organic layer with MgSO4] was added. The reaction mixture was heated at 75° C. for 1 h, then partitioned between sat. aq. NaHCO3 solution and CH2Cl2. The organic layer was dried (MgSO4), filtered, and evaporated. Chromatography (IST Isolute® Flash NH2; EtOAc) afforded the title compound (184 mg, 84%). Light yellow oil, MS: 400.3 (M+H)+.

reactant | NaH | 0.82 mmol, 36 mg | [H-].[Na+]
reactant | 3-methyl-4-(3-trifluoromethoxy-phenyl)-piperazin-2-one | 0.55 mmol, 150 mg | CC1C(NCCN1C1=CC(=CC=C1)OC(F)(F)F)=O | C12H13F3N2O2
reactant | 1-(3-chloropropyl)-piperidine | ClCCCN1CCCCC1 | C8H16ClN
reactant | 1-(3-chloropropyl)-piperidine hydrochloride | 2.74 mmol, 542 mg | Cl.ClCCCN1CCCCC1
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Methyl-1-(3-piperidin-1-yl-propyl)-4-(3-trifluoromethoxy-phenyl)-piperazin-2-one | 184 mg, 84% | CC1C(N(CCN1C1=CC(=CC=C1)OC(F)(F)F)CCCN1CCCCC1)=O | C20H28F3N3O2
